US04672106
In the same manner as described in Example 1-(2), 1.10 g of Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)lysine and 0.69 g of an N-hydroxy-5-norbornene-2,3-dicarboxyimide active ester of hexanoic acid were reacted to obtain 1.17 g of Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -hexanoyl-lysine; melting point: 116° to 118° C. (decomp.); [α]D25 -12.1° (c 1.1, methanol).

reactant | Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)lysine | 1.10 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)N[C@@H](CCCCN)C(=O)O)C(N)=O | C19H35N5O7
reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
product | Nα -(t-butyloxycarbonyl-alanyl-D-isoglutaminyl)-Nε -hexanoyl-lysine | 1.17 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@H](CCC(=O)N[C@@H](CCCCNC(CCCCC)=O)C(=O)O)C(N)=O | C25H45N5O8
